US08877794B2
1.3 2-(2-Fluoro-5-hydroxy-phenyl)-3-phenyl-propionitrile
To a stirred and cooled (0° C.) solution of 2-(2-fluoro-5-methoxy-phenyl)-3-phenyl-propionitrile (5.68 g, 22.25 mmol) in 150 ml dichloromethane under argon was added dropwise a 1M solution of boron tribromide in dichloromethane (66.7 ml, 66.7 mmol). The reaction was allowed to warm up to room temperature. The mixture was stirred over night, poured on ice water, diluted with dichloromethane. The organic layer was separated and the aqueous layer extracted twice with dichloromethane. The combined organic layers were washed subsequently with water, saturated sodium bicarbonate solution and brine, then dried over sodium sulphate and filtered. Evaporation of solvent afforded a pale brown solid.

reactant | 2-(2-fluoro-5-methoxy-phenyl)-3-phenyl-propionitrile | 22.25 mmol, 5.68 g | FC1=C(C=C(C=C1)OC)C(C#N)CC1=CC=CC=C1 | C16H14FNO
reactant | boron tribromide | B(Br)(Br)Br | BBr3
solvent | dichloromethane | 150 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 66.7 mmol, 66.7 ml | ClCCl | CH2Cl2
product | 2-(2-Fluoro-5-hydroxy-phenyl)-3-phenyl-propionitrile | FC1=C(C=C(C=C1)O)C(C#N)CC1=CC=CC=C1 | C15H12FNO
